US04238611
7-Fluoro-8-chloro-10-[4-(2-hydroxyethyl)piperazino]-10,11-dihydrodibenzo(b,f)thiepine
A mixture of 7-fluoro-8,10-dichloro-10,11-dihydrodibenzo(b,f)thiepine (the preparation of which is described in Example 19) (4.5 g), 1-(2-hydroxyethyl)piperazine (4.1 g) and chloroform (5 ml) was refluxed for 7.5 hours. The reaction mixture was then diluted with chloroform (50 ml) and the solution washed with water. The chloroform was evaporated the residue dissolved in benzene (200 ml) and the solution shaken with 3 N-HCl (60 ml). The separated hydrochloride was filtered, suspended in the aqueous layer of the filtrate and the suspension made basic with ammonium hydroxide. The liberated base was taken up in chloroform and isolated as usual; m.p. 150°-152° C. (acetone), yield 4.8 g (81%).

reactant | 7-fluoro-8,10-dichloro-10,11-dihydrodibenzo(b,f)thiepine | FC1=CC2=C(C(CC3=C(S2)C=CC=C3)Cl)C=C1Cl | C14H9Cl2FS
reactant | 1-(2-hydroxyethyl)piperazine | 4.1 g | OCCN1CCNCC1 | C6H14N2O
reactant | acetone | CC(=O)C | C3H6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Fluoro-8-chloro-10-[4-(2-hydroxyethyl)piperazino]-10,11-dihydrodibenzo(b,f)thiepine | FC1=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCO)C=C1Cl | C20H22ClFN2OS
